US06514964B1
Step B: 2-(4-bromophenyl)-1-(hydroxyimino)ethylamine
To a stirring solution of 2-(4-bromophenyl) ethanenitrile in methanol/water (1 eq/1 eq, 0.1 M) was added hydroxyamine hydrochloride (2.1 eq) and sodium carbonate (2.0 eq). The reaction was stirred at 60° C. for 5 hrs. The reaction was diluted with ethyl acetate and separated. The organic layer was washed with 10% hydochloric acid and separated. The aqueous layer was neutrized with 10% sodium carbonate and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo to afford the product. EI-MS m/z 229, 231(M+H)+

reactant | 2-(4-bromophenyl) ethanenitrile | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | methanol water | 0.1 M, 1 eq | CO.O
reactant | hydroxyamine hydrochloride | 2.1 eq | Cl.ON
reactant | sodium carbonate | 2.0 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-bromophenyl)-1-(hydroxyimino)ethylamine | BrC1=CC=C(C=C1)CC(=NO)N | C8H9BrN2O
